US04886814
N-[2-(4-Methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine
Prepared by analogy to Example 32 by reaction of 2-trifluoromethyl-4-bromoacetyl-thiazole with N-(2-hydroxyethyl)-2-(4-methylaminocarbonylmethoxyphenyl)-1-methylethylamine and potassium hydrogen carbonate in acetone at room temperature, followed by reduction with sodium borohydride in trifluoroacetic acid. The resulting crude product is purified on a silica gel column using toluene/ethyl acetate=2:8 as eluant.

reactant | 2-trifluoromethyl-4-bromoacetyl-thiazole | FC(C=1SC=C(N1)C(CBr)=O)(F)F | C6H3BrF3NOS
reactant | N-(2-hydroxyethyl)-2-(4-methylaminocarbonylmethoxyphenyl)-1-methylethylamine | OCCNC(CC1=CC=C(C=C1)OCC(=O)NC)C | C14H22N2O3
reactant | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
reactant | sodium borohydride | [BH4-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N-[2-(4-Methylaminocarbonylmethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine | CNC(=O)COC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C20H24F3N3O3S
